US04284631
A suspension of 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-carbamoylmethoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 2.4 g.), 10% palladium-carbon (0.96 g.), acetic acid (0.17 ml.), methanol (9.6 ml.), water (1.7 ml.) and tetrahydrofuran (24 ml.) was subjected to catalytic reduction under ordinary pressure for 3 hours. After filtration, the filtrate was concentrated in vacuo. Water and ethyl acetate were added to the residue and adjusted to pH 7.5 with sodium bicarbonate. After filtration, the filtrate was washed with ethyl acetate and diethyl ether in turn, adjusted to pH 1.0 with 10% hydrochloric acid and stirred under ice-cooling for 20 minutes. The precipitates were collected by filtration, washed with water, and dried to give 7-[2-(2-formamidothiazol-4-yl)-2-carbamoylmethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.92 g.).

reactant | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-carbamoylmethoxyiminoacetamido]-3-cephem-4-carboxylate | 2.4 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCC(N)=O | C22H19N7O9S2
reactant | acetic acid | 0.17 ml | C(C)(=O)O | C2H4O2
reactant | methanol | 9.6 ml | CO | CH4O
reactant | water | 1.7 ml | O | H2O
catalyst | palladium-carbon | 0.96 g | [C].[Pd]
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-formamidothiazol-4-yl)-2-carbamoylmethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.92 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC(N)=O | C15H14N6O7S2
